US07897607B2
Ethyl 2-[4-bromo-1-(2,4-dimethylphenyl)-1H-imidazole-5-carbonyl]-3-(heptan-4-ylamino)acrylate
To 1.20 g (3.3 mmol) of ethyl 3-[4-bromo-1-(2,4-dimethylphenyl)-1H-imidazol-5-yl]-3-oxopropanoate in 1.5 mL of triethylorthoformate was added 0.68 mL (7.2 mmol) of acetic anhydride. The solution was heated to 120° C. for 90 min, cooled to room temperature and concentrated in vacuo. The crude ethoxymethylene oxobutanoate was then dissolved in 35 mL of ethanol, cooled to 0° C., treated with 0.59 mL (3.9 mmol) of 4-aminoheptane and stirred at 0° C. for 1 h. The reaction mixture was concentrated in vacuo to a thick golden oil. The crude oil was purified by flash chromatography eluting with a 25-33% ethyl acetate/hexanes gradient mixture to give 0.62 g of the title compound as a white semisolid. Dirty fractions were combined, concentrated and purified to give an additional 0.20 g of the title compound. The overall yield of the title compound was 0.82 g (36%) which was found to be 70% pure by LCMS analysis. This material was used without further purification in the next step.

reactant | ethyl 3-[4-bromo-1-(2,4-dimethylphenyl)-1H-imidazol-5-yl]-3-oxopropanoate | 3.3 mmol, 1.20 g | BrC=1N=CN(C1C(CC(=O)OCC)=O)C1=C(C=C(C=C1)C)C | C16H17BrN2O3
reactant | acetic anhydride | 7.2 mmol, 0.68 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-aminoheptane | 3.9 mmol, 0.59 mL | NC(CCC)CCC | C7H17N
solvent | triethylorthoformate | 1.5 mL | C(C)OC(OCC)OCC | C7H16O3
product | Ethyl 2-[4-bromo-1-(2,4-dimethylphenyl)-1H-imidazole-5-carbonyl]-3-(heptan-4-ylamino)acrylate | 0.62 g | BrC=1N=CN(C1C(=O)C(C(=O)OCC)=CNC(CCC)CCC)C1=C(C=C(C=C1)C)C | C24H32BrN3O3
